US08957070B2
Ethyl 2-{1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate
A mixture of ethyl 2-{1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate (2.19 g), methyl iodide (0.57 mL), potassium carbonate (0.95 g) and N,N-dimethylformamide (20 mL) was stirred at room temperature overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried to give the title compound (2.18 g, yield 97%) as pale-yellow crystals. melting point 142-143° C.

reactant | ethyl 2-{1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate | 2.19 g | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C=1SC=CC1)C=1SC(=CN1)C(=O)OCC | C20H19N3O5S3
reactant | methyl iodide | 0.57 mL | CI | CH3I
reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Ethyl 2-{1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate | 2.18 g, yield 97% | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(=CN1)C(=O)OCC | C21H21N3O5S3
